US04857542
Into 250 ml of anhydrous chloroform were added 5.0 g of 4-(3-methyl-5-oxo-2-pyrazolin-1-yl)benzoic acid and 25 ml of triethylamine and, further under ice-cooling, 12.5 ml of ethyl chlorocarbonate was added dropwise into the mixture. After evaporation of the solvent, the residue was dissolved in 200 ml of THF, the insolubles were filtered off, and then a solution of 2.08 g of NaBH4 dissolved in 60 ml of water was added dropwise into the filtrate, followed by stirring at room temperature for 2 hours. After evaporation of the solvent, water was added to the residue, and the mixture was adjusted with dil. hydrochloric acid to pH 4-5 and then extracted with chloroform. The organic layer was dried, concentrated and purified on silica gel column chromatograph with the use of chloroform-ethanl (100:1) as eluant, followed by recrystallization from chloroform-ethyl ether to give 1.16 g of 1-(4-hydroxymethylphenyl)-3-methyl-2-pyrazolin-5-one as colorless crystals.

reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-(3-methyl-5-oxo-2-pyrazolin-1-yl)benzoic acid | 5.0 g | CC1=NN(C(C1)=O)C1=CC=C(C(=O)O)C=C1 | C11H10N2O3
reactant | ethyl chlorocarbonate | 12.5 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-hydroxymethylphenyl)-3-methyl-2-pyrazolin-5-one | 1.16 g, Yield 35% | OCC1=CC=C(C=C1)N1N=C(CC1=O)C | C11H12N2O2
